US07923451B2
Step A: (R,R)-4-Ethyl-6-[1-(1-phenyl-ethyl)-hexahydro-pyrrolo[3,4-b]pyrrol-5-yl]-pyrimidin-2-ylamine.
To a solution of 4-chloro-6-ethyl-pyrimidin-2-ylamine (200 mg, 1.27 mmol) in EtOH (2.4 mL) was added pyridine (210 μL, 2.54 mmol) and 1-(1-phenyl-ethyl)-octahydro-pyrrolo[3,4-b]pyrrole (360 mg, 1.65 mmol). The solution was stirred for 2 h at 90° C. The compound was purified directly with reversed-phase HPLC to yield 115 mg (28%) of the desired compound as a yellow oil.

reactant | 4-chloro-6-ethyl-pyrimidin-2-ylamine | 1.27 mmol, 200 mg | ClC1=NC(=NC(=C1)CC)N | C6H8ClN3
reactant | pyridine | 2.54 mmol, 210 μL | N1=CC=CC=C1 | C5H5N
reactant | 1-(1-phenyl-ethyl)-octahydro-pyrrolo[3,4-b]pyrrole | 1.65 mmol, 360 mg | C1(=CC=CC=C1)C(C)N1C2C(CC1)CNC2 | C14H20N2
solvent | EtOH | 2.4 mL | CCO | C2H6O
product | (R,R)-4-Ethyl-6-[1-(1-phenyl-ethyl)-hexahydro-pyrrolo[3,4-b]pyrrol-5-yl]-pyrimidin-2-ylamine | 115 mg, 28% | C(C)C1=NC(=NC(=C1)N1C[C@@H]2N(CC[C@@H]2C1)C(C)C1=CC=CC=C1)N | C20H27N5
